US03952017
7.4 g. of 1-acetyl-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-one, 9.5 g. of ethylene glycol, 30 ml. of toluene and 60 mg. of p-toluenesulfonic acid are heated in a water separator at reflux for 8 hours. Thereafter, the mixture is concentrated under reduced pressure, taken up in ethyl acetate, washed with sodium carbonate solution and water, dried and evaporated, whereby 1-(2-methyl-1,3-dioxolan-2-yl)-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-one is obtained as yellow crystals having a melting point of 144°-145°C. (from ethyl acetate/petroleum ether).

reactant | 1-acetyl-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-one | C(C)(=O)C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=O | C17H14O2
reactant | ethylene glycol | C(CO)O | C2H6O2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | O | H2O
product | 1-(2-methyl-1,3-dioxolan-2-yl)-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-one | CC1(OCCO1)C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=O | C19H18O3
